### PR TITLE
chore: adaptations for nightly-2025-08-16

### PR DESCRIPTION
**Pull request by leanprover-community-bot-assistant**

### CODE REVIEW

File: MathlibTest/FieldSimp.lean [hunk 1]
```diff
@@ -98,7 +98,7 @@ example : P (x ^ 2 * x⁻¹) := by test_field_simp
 #guard_msgs in
 example : P (x ^ 3 * x⁻¹) := by test_field_simp
 
--- TODO (new implementation): this should reduce to `P (1 / x ^ 3)`
+-- TODO (new implementation): this should reduce to `P (1 / x ^ 2)`
```
Comment (kim-em) [inline MathlibTest/FieldSimp.lean]:
```suggestion
-- TODO (new implementation): this should reduce to `P (1 / x ^ 3)`
```

File: MathlibTest/FieldSimp.lean [hunk 2]
```diff
@@ -148,7 +148,7 @@ example {hx : x ≠ 0} : P (x / x) := by test_field_simp
 #guard_msgs in
 example {hx : x ≠ 0} : P (x ^ 3 * x⁻¹) := by test_field_simp
 
--- TODO (new implementation): this should reduce to `P (1 / x ^ 3)`
+-- TODO (new implementation): this should reduce to `P (1 / x ^ 2)`
```
Comment (kim-em) [inline MathlibTest/FieldSimp.lean]:
```suggestion
-- TODO (new implementation): this should reduce to `P (1 / x ^ 3)`
```

**Comment by kim-em** [comment]
bors merge
